US04518596
8-(4-Fluorobenzyl-thio)-2-(N-formyl-piperazino)-4-(1-oxido-thiomorpholino)-pyrimido-[5,4-d]-pyrimidine
This compound was prepared analogous to Example 93 from 2-chloro-8-(4-fluorobenzyl-thio)-4-(1-oxido-thiomorpholino)-pyrimido-[5,4-d]-pyrimidine (m.p.: 192°-194° C.) and N-formyl-piperazine in dioxane.

reactant | 2-chloro-8-(4-fluorobenzyl-thio)-4-(1-oxido-thiomorpholino)-pyrimido-[5,4-d]-pyrimidine | ClC=1N=C(C2=C(N1)C(=NC=N2)SCC2=CC=C(C=C2)F)N2CCS(CC2)=O | C17H15ClFN5OS2
reactant | N-formyl-piperazine | C(=O)N1CCNCC1 | C5H10N2O
solvent | 2,8-Dichloro-4-(1-oxido-thiomorpholino)-pyrimido[5,4-d]pyrimidine | ClC=1N=C(C2=C(N1)C(=NC=N2)Cl)N2CCS(CC2)=O | C10H9Cl2N5OS
product | 8-(4-Fluorobenzyl-thio)-2-(N-formyl-piperazino)-4-(1-oxido-thiomorpholino)-pyrimido-[5,4-d]-pyrimidine | FC1=CC=C(CSC2=NC=NC3=C2N=C(N=C3N3CCS(CC3)=O)N3CCN(CC3)C=O)C=C1 | C22H24FN7O2S2
